US05071847
3-{2-[4-[Bis(4-fluorophenyl)methylene]perhydroazepin-1-yl]ethyl}-2,4-dioxo-1,2,3,4-tetrahydroquinazoline hydrochloride
A mixture of 7.5 g of 3-(2-chloroethyl)-2,4-dioxo-1,2,3,4-tetrahydroquinazoline, 10 g of 4-[bis(4-fluorophenyl)methylene]perhydroazepine, 3.4 g of sodium hydrogen carbonate and 100 ml of toluene is brought to reflux for 12 hours. The mixture is filtered and concentrated under vacuum. The oil obtained is purified by chromatography on 500 g of 70-230 mesh silica using a mixture of dichloromethane, methanol and ammonia solution (98.4:1.5:0.1 V/V) as eluent.

reactant | 3-(2-chloroethyl)-2,4-dioxo-1,2,3,4-tetrahydroquinazoline | 7.5 g | ClCCN1C(NC2=CC=CC=C2C1=O)=O | C10H9ClN2O2
reactant | 4-[bis(4-fluorophenyl)methylene]perhydroazepine | 10 g | FC1=CC=C(C=C1)C(=C1CCNCCC1)C1=CC=C(C=C1)F | C19H19F2N
reactant | sodium hydrogen carbonate | 3.4 g | C(O)([O-])=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-{2-[4-[Bis(4-fluorophenyl)methylene]perhydroazepin-1-yl]ethyl}-2,4-dioxo-1,2,3,4-tetrahydroquinazoline hydrochloride | Cl.FC1=CC=C(C=C1)C(=C1CCN(CCC1)CCN1C(NC2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | InChI=1S/C29H27F2N3O2.ClH/c30-23-11-7-21(8-12-23)27(22-9-13-24(31)14-10-22)20-4-3-16-33(17-15-20)18-19-34-28(35)25-5-1-2-6-26(25)32-29(34)36;/h1-2,5-14H,3-4,15-19H2,(H,32,36);1H
